US06927228B2
(b) N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-N-methyldecanamide
In a manner similar to that of Example 1(g), starting with 460 mg (1 mmol) of N-[4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]-N-methyldecanamide in 8 ml of dioxane, 300 mg (65%) of the desired product are obtained in the form of a film.

reactant | N-[4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]-N-methyldecanamide | 1 mmol, 460 mg | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CCCCCCCCC)=O)C | C28H34N2O3S
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-N-methyldecanamide | 300 mg, 65% | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CCCCCCCCC)=O)C | C28H36N2O3S
